datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C([H])=C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])/C(C)=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][S:10][H].C[O+:21]=[C:20]([S][H])[O]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S][H])[O]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])CCCCCC 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([S][H])[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S][H])[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)[H])CC 21=20;20,10=10"
"[H][NH:10]C([H])C(C)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([Na])C(CC)C(C)C1[H]>>[O:10]([Na])C(CC)C(C)C([C:20](C)=[O:21])[H] 21=20;20,10=10"
"[O:10]([K])C(C)C([H])C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O+:10]([K])C(C)C([H])C1O 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])C>>CN([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](CC)[S]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)[H])CC>>CN([C:20]1(OC(C(C([O:21]1)[H])CC)[H])[O-:10])CC 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C(O)C1C>>[O:10]([Na])C(CC)C(O)C([C:20](OC)=[O:21])C 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.CC[S:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C(C)=C1C>>[OH:10]C(CCC)/C(C)=C([C:20](OCC)=[OH+:21])/C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)=C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)/C([H])=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1[H])CC)[H].[O-:21]CC>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CC)[H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CCCCCC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH]C.[Cl-]>>[Cl-].C[NH:10][H].C[NH+:21]=[C:20]([NH]CC)[NH]C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C([H])C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])C([H])C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[O-:21][C:20]2(OCC)C(C([H])C3=C([O:10]2)C=CC=C3)[H]>>[O-:10]C(C=CC=C1)=C1C([H])C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[NH:10]([H])C(CC)C([H])C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(C)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(CC)C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
